US07186724B2
3-Piperazin-1-yl-thieno[2,3-d]isoxazole.
4-Thieno[2,3-d]isoxazol-3-yl-piperazine-1-carboxylic acid tert-butyl ester (5.0 g, 16.2 mmol) was stirred at room temperature in a solution of HCl (25 mL, 4N HCl in dioxane) for 4 hours. The volatiles were removed in vacuo and the residue was triturated with ether (twice) to yield off white solids 3.3 g (84%) as the desired hydrochloride salt.

reactant | 4-Thieno[2,3-d]isoxazol-3-yl-piperazine-1-carboxylic acid tert-butyl ester | 16.2 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NOC2=C1SC=C2 | C14H19N3O3S
reactant | HCl | 4N, 25 mL | Cl | ClH
product | 3-Piperazin-1-yl-thieno[2,3-d]isoxazole | 3.3 g, 84% | N1(CCNCC1)C1=NOC2=C1SC=C2 | C9H11N3OS
